US07846925B2
In a 100 ml round bottom flask were placed 20 g of thiazolidine, 15.6 g of piperonal and 7.7 g of beta-alanine in 80 ml of acetic acid. The reaction was stirred for 3 h at 100° C. and then slowly cooled to room temperature, while the desired condensation product crystallized. The crystals were filtered, washed with acetic acid (rt.) and water than recrystallized from DME (25 ml), affording 28 g (84%) of pure 5-(1,3-benzodioxol-5-ylmethylene)-1,3-thiazolidine-2,4-dione. The corresponding potassium salt was obtained via the following route: 5-(1,3-benzodioxol-5-ylmethylene)-1,3-thiazolidine-2,4-dione was suspended in THF, followed by the addition of 1N solution of KOH in water (1.0 eq.). A clear solution has been obtained, which upon lyophilization gave pure potassium salt of 5-(1,3-benzodioxol-5-ylmethylene)-1,3-thiazolidine-2,4-dione.

reactant | thiazolidine | 20 g | S1CNCC1 | C3H7NS
reactant | piperonal | 15.6 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | beta-alanine | 7.7 g | NCCC(=O)O | C3H7NO2
reactant | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 5-(1,3-benzodioxol-5-ylmethylene)-1,3-thiazolidine-2,4-dione | 28 g, 84% | O1COC2=C1C=CC(=C2)C=C2C(NC(S2)=O)=O | C11H7NO4S
